US08080552B2
A mixture of 1.10 g (3.69 mmol) 2-methylsulfanyl-4-(3-chloro-4-nitrophenoxy)-pyrimidine, 20 ml ethanol, 20 ml THF, and 300 mg palladium/BaSO4 is hydrogenated at 50 mbar hydrogen pressure at r.t. for 8 h. The catalyst was removed by filtration, washed with 20 ml ethanol and evaporated. The residue was purified by chromatography on silica (ethyl acetate/isohexane 2:7) to give 320 mg (32%) 2-chloro-4-(2-methylsulfanyl-pyrimidin-4-yloxy)-phenylamine.

reactant | 2-methylsulfanyl-4-(3-chloro-4-nitrophenoxy)-pyrimidine | 3.69 mmol, 1.10 g | CSC1=NC=CC(=N1)OC1=CC(=C(C=C1)[N+](=O)[O-])Cl | C11H8ClN3O3S
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
catalyst | palladium BaSO4 | 300 mg | [Pd].[O-]S(=O)(=O)[O-].[Ba+2]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-chloro-4-(2-methylsulfanyl-pyrimidin-4-yloxy)-phenylamine | 320 mg, 32% | ClC1=C(C=CC(=C1)OC1=NC(=NC=C1)SC)N | C11H10ClN3OS
